US07666864B2
Step 5: 3-(3-Fluoro-4-{2-[4-(2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-ylmethyl)-[1,4]diazepan-1-yl]-pyrimidin-5-yl}-phenyl)-5-hydroxymethyl-oxazolidin-2-one.
To a solution of 5-(tert-Butyl-dimethyl-silanyloxymethyl)-3-(3-fluoro-4-{2-[4-(2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-ylmethyl)-[1,4]diazepan-1-yl]-pyrimidin-5-yl}-phenyl)-oxazolidin-2-one (580 mg, 0.84 mmol) in THF (8.0 mL) was added TBAF (3.3 mL, 3.3 mmol, 1.0 M in THF). The mixture was stirred at room temperature for 1 h. The reaction mixture was diluted with EtOAc, washed with brine, dried with Na2SO4, purified by flash chromatography to give the title product (100 mg, 21%) as a yellow solid. ESI MS m/z 569 (M+H+); 1H NMR (400 MHz, CDCl3) δ 8.34 (s, 1H), 7.60 (dd, J=30, 3.0 Hz, 1H), 7.36 (t, J=20 Hz, 1H), 7.29 (d, J=3.0 Hz, 1H), 7.25 (s, 2H), 4.70 (m, 1H), 4.10 (d, J=25.0 Hz, 1H), 3.95-4.06 (m, 2H), 3.82-3.88 (m, 2H), 3.76 (d, J=23.0 Hz, 1H), 3.64 (dd, J=33, 10.0 Hz, 1H), 3.41-3.58 (m, 2H), 3.31 (bs, 3H), 3.02 (d, J=38.0, 1H), 2.94 (q, J=16.0 Hz, 1H), 2.82-2.84 (m, 1H), 2.70-2.78 (m, 1H), 2.60 (d, J=38.0, 1H), 1.64-1.72 (m, 1H), 1.50-1.58 (m, 1H), 1.48 (s, 3H).

reactant | 5-(tert-Butyl-dimethyl-silanyloxymethyl)-3-(3-fluoro-4-{2-[4-(2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-ylmethyl)-[1,4]diazepan-1-yl]-pyrimidin-5-yl}-phenyl)-oxazolidin-2-one | 0.84 mmol, 580 mg | C(C)(C)(C)[SiH2]OC(C1CN(C(O1)=O)C1=CC(=C(C=C1)C=1C=NC(=NC1)N1CCN(CCC1)CC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C)F)(C)C | C32H43FN8O6Si
reactant | TBAF | 3.3 mmol, 1.0 M, 3.3 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 8.0 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(3-Fluoro-4-{2-[4-(2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-ylmethyl)-[1,4]diazepan-1-yl]-pyrimidin-5-yl}-phenyl)-5-hydroxymethyl-oxazolidin-2-one | 100 mg, 21% | FC=1C=C(C=CC1C=1C=NC(=NC1)N1CCN(CCC1)CC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C)N2C(OC(C2)CO)=O | C26H29FN8O6
